US05410049
Step 4: N-[3(R,S)-5-Cyclohexyl-2,3-dihydro-1-methyl-2-oxo-1H-1,4-benzodiazepin-3-yl]N'-[3-(2,5-dihydro-4-hydroxy-N-methyl-2-oxopyrrol-3-yl)phenyl]urea
A solution of 5-cyclohexyl-l,3-dihydro-1-methyl-3(R,S)-[(4-nitrohenyloxycarbonyl)amino]-2H-1,4-benzodiazepin-2-one (Example 1, Step 9) (400 mg, 0.92 mmol) in anhydrous dimethylformamide (5.5 ml), under an atmosphere of nitrogen, at ambient temperature, was treated with triethylamine (126 μl 0.92 mmol). After stirring for 5 min, a solution of 3-(3-aminophenyl)-1,5-dihydro-4-hydroxy-N-methyl-2H-pyrrol-2-one (187 mg, 0.92 mmol) in anhydrous dimethylformamide (5.5 ml) was added dropwise. The solution was then heated at 50° C. for 2 h. The solution was cooled to room temperature and the solvent evaporated in vacuo. The residue was partitioned between ethyl acetate (20 ml) and 20% aqueous acetic acid (20 ml). The undissolved solid was filtered off and triturated with ether (20 ml) then hot methanol (20 ml), to afford the title compound (139 mg, 30%) as a white solid. mp 199°-201° C. 1H NMR (360MHz, D6 -DMSO) δ0.91 (1H, m), 1.09-1.93 (9H, m), 2.90 (4H, m), 3.31 (3H, s), 3.91 (2H, s), 5.07 (1H, d, J=8Hz), 7.13 (1H, t, J=8Hz), 7.23 (1H, d, J=8Hz), 7.36 (2H, m), 7.54 (2H, m), 7.63 (1H, m), 7.75 (1H, d, J=8Hz), 7.84 (1H, s), 8.96 (1H, s).

reactant | triethylamine | 0.92 mmol, 126 μl | C(C)N(CC)CC | C6H15N
reactant | 3-(3-aminophenyl)-1,5-dihydro-4-hydroxy-N-methyl-2H-pyrrol-2-one | 0.92 mmol, 187 mg | NC=1C=C(C=CC1)C=1C(N(CC1O)C)=O | C11H12N2O2
reactant | dimethylformamide | 5.5 ml | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 5.5 ml | CN(C=O)C | C3H7NO
product | N-[3(R,S)-5-Cyclohexyl-2,3-dihydro-1-methyl-2-oxo-1H-1,4-benzodiazepin-3-yl]N'-[3-(2,5-dihydro-4-hydroxy-N-methyl-2-oxopyrrol-3-yl)phenyl]urea | 139 mg, 30% | C1CCCC(C1)C1(C(N(C2=C(C=N1)C=CC=C2)C)=O)NC(=O)NC2=CC(=CC=C2)C=2C(N(CC2O)C)=O | C28H31N5O4
